* source CMOS
M_M1         N00155 N00166 N00159 N00159 MbreakP           
M_M2         N00155 N00166 0 0 MbreakN           
V_V1         N00166 0 0Vdc
V_V2         N00159 0 5Vdc
