* source NAND
M_M1         N00126 N00257 N00122 N00122 MbreakP           
M_M2         N00126 N00280 N00122 N00122 MbreakP           
M_M3         N00126 N00257 N00140 N00140 MbreakN           
M_M4         N00140 N00280 0 0 MbreakN           
V_V1         N00122 0 5Vdc
V_V2         N00257 0  
+PULSE 4.8 4.8 0 0 0 0 0
V_V3         N00280 0  
+PULSE 4.5 4.5 0 0 0 0 0
