* source NMOS
M_M1         N00177 N00188 N00195 N00195 MbreakN           
V_V1         N00177 0 0Vdc
V_V2         N00188 0 0Vdc
V_V3         N00195 0 0Vdc
