* source NOR GATE USING CMOS TYPE 2
M_M1         N01720 N01806 N01758 N01758 MbreakP           
M_M4         N01764 N01818 0 0 MbreakN           
V_V1         N01720 0 5Vdc
M_M2         N01758 N01818 N01764 N01764 MbreakP           
V_V2         N01806 0  
+PULSE 0 0 0 3 0 0 0
V_V3         N01818 0  
+PULSE 5 5 0 0 0 0 0
M_M3         N01764 N01806 0 0 MbreakN           
