* source PMOS
M_M1         N00103 N00110 N00117 N00117 MbreakP           
V_V1         N00103 0 0Vdc
V_V2         N00110 0 0Vdc
V_V3         N00117 0 0Vdc
